US06316494B1
(±)-cis-7-Hydroxy-3-phenyl-4-(4-(3-piperidinopropoxy)phenyl)chromane
In an manner analogous to that described in step 5 for Example 10, (±)-cis-7-methoxy-3-phenyl-4-(4-(3-piperidinopropoxy)phenyl)chromane (0.114 g, 0.25 mmol) was de-methylated by heating with pyridine hydrochloride to give the title compound as an off-white foam.

reactant | (±)-cis-7-methoxy-3-phenyl-4-(4-(3-piperidinopropoxy)phenyl)chromane | 0.25 mmol, 0.114 g | COC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCCN1CCCCC1 | C30H35NO3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | (±)-cis-7-Hydroxy-3-phenyl-4-(4-(3-piperidinopropoxy)phenyl)chromane | OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OCCCN1CCCCC1 | C29H33NO3
